US05446151
A mixture of 1-nitroso-2-naphthol (17.3 g; 0.10 mol) and indoline (23.8 g; 0.20 mol) in trichloroethylene (150 ml) was heated under reflux for 10 min. A solution of 1,3-dihydro-1,3,3-trimethyl-2-methyleneindoline (17.3 g; 0.1 mol) in trichloroethylene (100 ml) was added in one batch and the resulting mixture heated under reflux for 1 h. The solution was evaporatedand the oily residue treated with acetone to yield 1,3-Dihydro-1,3,3-trimethyl-6'-(2,3-dihydroindol-1-yl)spiro [2H-indole-2,3'-3H-naphtho[2,1-b][1,4]oxazine] as a yellow solid (4.44 g; 10%).

reactant | 1-nitroso-2-naphthol | 0.10 mol, 17.3 g | N(=O)C1=C(C=CC2=CC=CC=C12)O | C10H7NO2
reactant | indoline | 0.20 mol, 23.8 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | 1,3-dihydro-1,3,3-trimethyl-2-methyleneindoline | 0.1 mol, 17.3 g | CC1(C(=C)N(C2=CC=CC=C21)C)C | C12H15N
reactant | acetone | CC(=O)C | C3H6O
solvent | trichloroethylene | 150 ml | ClC=C(Cl)Cl | C2HCl3
solvent | trichloroethylene | 100 ml | ClC=C(Cl)Cl | C2HCl3
product | 1,3-Dihydro-1,3,3-trimethyl-6'-(2,3-dihydroindol-1-yl)spiro [2H-indole-2,3'-3H-naphtho[2,1-b][1,4]oxazine] | CN1C2=CC=CC=C2C(C12C=NC1=C(O2)C=C(C2=CC=CC=C21)N2CCC1=CC=CC=C21)(C)C | C30H27N3O
